US08461372B2
2-Benzyloxycarbonylamino-3-(4-nitro-phenyl)-propionic acid Stearyl Ester (430 g) was dissolved in ethyl acetate (2500 ml) in a pressure vessel. 10% Palladium carbon (58 g, 50% wet) was added and the reaction mixture was stirred under an atmosphere of Hydrogen (10 Kg) at 50° C. for 12 hours. The reaction mixture was brought to 20° C. and the catalyst was removed by filtration. The solvent was distilled off and the resulting diamine was precipitated by adding hexane. It was filtered and dried to yield pure 2-amino-3-(4-amino -phenyl)-propionic acid octadecyl ester (200 g) as a white powder with a melting point of 54-56° C. and a purity of 98% as determined by HPLC. The product was further characterized by IH NMR (CDCl3) δ 0.90 (t, 3H, CH3), 1.25 (m, 30H, 15X CH2), 1.65 (m, 2H, CH2), 2.90-3.05 (m, 2H, CH2), 3.70 (m, 1H, CH), 4.00-4.15 (m, 6H, 2X NH2 & CH2), 6.60 (d, 2H, Ar), 6.95 (d, 2H, Ar)

reactant | 2-Benzyloxycarbonylamino-3-(4-nitro-phenyl)-propionic acid Stearyl Ester | 430 g | C(CCCCCCCCCCCCCCCCC)OC(C(CC1=CC=C(C=C1)[N+](=O)[O-])NC(=O)OCC1=CC=CC=C1)=O | C35H52N2O6
solvent | ethyl acetate | 2500 ml | C(C)(=O)OCC | C4H8O2
catalyst | Palladium carbon | 58 g | [C].[Pd]
product | 2-amino-3-(4-amino -phenyl)-propionic acid octadecyl ester | 200 g | C(CCCCCCCCCCCCCCCCC)OC(C(CC1=CC=C(C=C1)N)N)=O | C27H48N2O2
